US04140496
In addition, 92.21 g (0.500 mole) of cyanuric chloride and 50.41 g (0.600 mole) of sodium hydrogen carbonate were added in this order to 800 ml (13.73 moles) of ethanol kept at 5° C. with mechanical stirring and the mixture was reacted at this temperature for 8 hours with stirring. The resulting solution was poured into 650 g of ice-water and the precipitated white substance was immediately collected by filtration with suction. The substance was washed with 200 ml of water (0° C.) two to three times and dried in a vacuum dryer. It was recrystallized from petroleum ether to give b 2,4-dichloro-6-ethoxy-s-triazine as a colorless solid substance.

reactant | cyanuric chloride | 0.500 mole, 92.21 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydrogen carbonate | 0.600 mole, 50.41 g | C(O)([O-])=O.[Na+]
reactant | ethanol | 13.73 moles, 800 ml | C(C)O | C2H6O
product | 2,4-dichloro-6-ethoxy-s-triazine | ClC1=NC(=NC(=N1)Cl)OCC | C5H5Cl2N3O
